US08232278B2
Synthesis of 2-ethyl-4-(2-methoxyethoxy)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine
was synthesized from 2-ethyl-6-(4-fluorophenyl)-4-hydroxyl pyrido[3,2-d]pyrimidine and 2-methoxyethanol in 46% yield, using the procedure described for the synthesis of 2-methyl-4-(2-methoxyethoxy)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine. The mass spectrum was as follows: MS (m/z): 328 ([M+H]+, 100).

reactant | 2-ethyl-6-(4-fluorophenyl)-4-hydroxyl pyrido[3,2-d]pyrimidine | C(C)C=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)O | C15H12FN3O
reactant | 2-methyl-4-(2-methoxyethoxy)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | CC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)OCCOC | C17H16FN3O2
solvent | 2-methoxyethanol | COCCO | C3H8O2
product | 2-ethyl-4-(2-methoxyethoxy)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 46% yield | C(C)C=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)OCCOC | C18H18FN3O2
